US04150212
29.04 g of a catalyst mixture of 2-aminopyridine/dibutyl tin dilaurate (molar ratio 1:1) in 37 ml of toluene are reacted with 4.76 g of phenyl isocyanate at room temperature. Petroleum ether is added to the resulting suspension after 11/2 hours and the colorless precipitate is suction filtered. 7 g of N-(2-pyridyl)-N'-phenyl urea, m.p. 186°-188° C. are isolated.

reactant | 2-aminopyridine dibutyl tin dilaurate | NC1=NC=CC=C1.C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | phenyl isocyanate | 4.76 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 37 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-pyridyl)-N'-phenyl urea | 7 g | N1=C(C=CC=C1)NC(=O)NC1=CC=CC=C1 | C12H11N3O
